US07365174B2
Preparation Method of 1-(3-bromophenyl)-1H-imidazole
In an amount of 400 mg of imidazole was dissolved in 7.5 ml of dimethyl sulfoxide under argon atmosphere, added with 255 mg of 60% sodium hydride, and stirred at room temperature. After 1 hour, the reaction mixture was added with 0.8 ml of 3-bromofluorobenzene, and stirred at 140° C. for 21 hours. The reaction mixture was diluted with 50 ml of ethyl acetate, and washed with 20 ml of saturated brine. The organic layer was dried over anhydrous sodium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate (3:1 to 1:1)) to obtain 1.1 g of the title compound.

reactant | sodium hydride | 255 mg | [H-].[Na+]
reactant | 3-bromofluorobenzene | 0.8 ml | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | imidazole | 400 mg | N1C=NC=C1 | C3H4N2
solvent | dimethyl sulfoxide | 7.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-bromophenyl)-1H-imidazole | 1.1 g | BrC=1C=C(C=CC1)N1C=NC=C1 | C9H7BrN2
